US05444055
(E)-17β-Methoxyiminomethyl-5β-androstane-3β,14β-diol (I-aa)
To a suspension of 0.16 g of methoxylamine hydrochloride and 0.19 g of NaHCO3 in 12 ml of dioxane and 10 ml of water a solution of 0.50 g of 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde (Boutagy J. and Thomas R., Aust. J. Chem., 1971, 24, 2723) in 6 ml of dioxane was added dropwise at room temperature. After 15 minutes the solution was diluted with water and extracted with chloroform; the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness. The crude product was purified by flash-chromatography (SiO2) using cyclohexane/ethyl acetate 60/40; the fractions containing the rifle compound were collected and evaporated to dryness. The residue was ground with di-iso-propyl ether/ethanol to give 0.20 g of the title compound (I-aa), as a white solid.

reactant | methoxylamine hydrochloride | 0.16 g | Cl.O(C)N
reactant | NaHCO3 | 0.19 g | C(=O)(O)[O-].[Na+]
reactant | 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde | 0.50 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O)O | C20H32O3
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | (E)-17β-Methoxyiminomethyl-5β-androstane-3β,14β-diol | 0.20 g | CO\N=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C21H35NO3
